US08877782B2
N-Cyclopropyl-6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinamide
A solution of trimethylaluminium (2 M in toluene, 410 μL, 0.8 mmol) was added dropwise (exothermic) to a solution of cyclopropylamine (47 mg, 58 μL, 0.8 mmol) in dioxane (5 mL) and the resulting mixture was stirred at room temperature for 1 h. Then a solution of 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester (70 mg, 0.2 mmol) in dioxane (2.5 mL) was added. The resulting mixture was then heated at 85-95° C. for 5 h and then cooled to room temperature and then poured into a sodium potassium tartrate solution and extracted with ethyl acetate which was then washed with brine, dried over sodium sulfate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=100:0 to 0:100) afforded the title compound (45 mg, 60%) which was obtained as an off white foam. MS: m/e=367.0 [M+H]+.

reactant | trimethylaluminium | 0.8 mmol, 2 M, 410 μL | C[Al](C)C
reactant | cyclopropylamine | 0.8 mmol, 58 μL, 47 mg | C1(CC1)N | C3H7N
reactant | 6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinic acid methyl ester | 0.2 mmol, 70 mg | COC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C18H16FN3O3
reactant | sodium potassium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[K+].[Na+]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | N-Cyclopropyl-6-{[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethyl]-amino}-nicotinamide | 45 mg, 60% | C1(CC1)NC(C1=CN=C(C=C1)NCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C20H19FN4O2
